US07935707B2
C) 5-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-3-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester
The title compound was prepared from 3-(1-benzyl-1H-[1,2,3]triazol-4-yl)-2-[cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-propionic acid ethyl ester in direct analogy to intermediate 8B, by reaction with ammonium trifluoroacetate. MS: 498.1 (MH+).

reactant | 3-(1-benzyl-1H-[1,2,3]triazol-4-yl)-2-[cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C=1N=NN(C1)CC1=CC=CC=C1)N(C(C1=CC=C(C=C1)OC(F)(F)F)=O)C1CC1)=O | C25H23F3N4O5
reactant | ammonium trifluoroacetate | FC(C(=O)[O-])(F)F.[NH4+]
product | 5-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-3-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C=1N=NN(C1)CC1=CC=CC=C1)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C25H22F3N5O3
